US07067517B2
4-Chlor-phenyl-methyl-carbamic acid 4-(3,5-dichloro-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(3,5-dichloro-pyridin-2-yloxy)-phenol and 3-[(4-chlorophenyl)-methyl-carbamoyl]-1-methyl-3H-imidazol-1-ium iodide. The crude product was subjected to flash chromatography (Quad flash 12, dichlormethane (67%). HPLC-MS m/z=422.9 (M+1), Rt: 5.5 min.

reactant | 4-(3,5-dichloro-pyridin-2-yloxy)-phenol | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)O | C11H7Cl2NO2
reactant | 3-[(4-chlorophenyl)-methyl-carbamoyl]-1-methyl-3H-imidazol-1-ium iodide | [I-].ClC1=CC=C(C=C1)N(C(=O)N1C=[N+](C=C1)C)C
solvent | dichlormethane | ClCCl | CH2Cl2
product | 4-Chlor-phenyl-methyl-carbamic acid 4-(3,5-dichloro-pyridin-2-yloxy)-phenyl ester | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)OC(N(C)C1=CC=C(C=C1)Cl)=O | C19H13Cl3N2O3
